### PR TITLE
feat: Add a basic CTree data structure

### PR DESCRIPTION
**Pull request by nchappe**
This is slightly different to the Rocq CTree library as we support only
one kind of nondeterminism, that counts as a tau transition.

This commit only adds the basic data structure and combinators,
with no proofs except for what is needed for the basic definitions
to go through, and no notion of program comparison.

The `Effect` infrastructure is taken as is from `EffectSSA`,
and the rest partly adapts code from `EffectSSA` and `Coinductive`.

Co-authored-by: Alex Keizer [alex@keizer.dev](mailto:alex@keizer.dev)
Co-authored-by: Michael Sammler [michael.sammler@ist.ac.at](mailto:michael.sammler@ist.ac.at)

### CODE REVIEW

**Comment by nchappe** [comment]
Fixed minor problems, added some comments, and updated license

File: lean-ctrees/CTree/Definition.lean [hunk 1]
```diff
@@ -0,0 +1,378 @@
...
+public import Coinductive
+public import CTree.Effect
+
+public section
+
+namespace CTree
+open Coinductive Lean.Order
+
+
+inductive E1In : Type u where
```
Comment (ineol) [inline lean-ctrees/CTree/Definition.lean]: Add doc?

File: lean-ctrees/CTree/Definition.lean [hunk 2]
```diff
@@ -0,0 +1,378 @@
...
+| e1
+
+@[expose]
+def E1 (e : E1In.{u}) : Type u :=
+  match e with
+  | .e1 => PUnit
+
+
+-- Low-level CTree definitions
```
Comment (ineol) [inline lean-ctrees/CTree/Definition.lean]: Use `/-! ... -/` for nice sections?

File: lean-ctrees/CTree/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,378 @@
...
+  | .e1 => PUnit
+
+
+-- Low-level CTree definitions
+
+/--
+The basic coinductive functor for CTree, with constructor resp. for leaves, for n-ary choices, and for n-ary events
+-/
+inductive CTreeF {EIn : Type u} (E : EIn → Type u) {CIn : Type u} (C : CIn → Type u)
+    (R : Type v) (CTree : Type w) : Type (max u v w) where
```
Comment (ineol) [inline lean-ctrees/CTree/Defs.lean:54]:
```
inductive CTreeF {EIn : Type u} (E : EIn → Type u) {CIn : Type u} (C : CIn → Type u)
    (R : Type v) (CTree : Type (max u v)) : Type (max u v) where
```
also works (and the whole package compiles) (w := max (u v)) but I don't know which one is better

File: lean-ctrees/CTree/Effect.lean [hunk 4]
```diff
@@ -0,0 +1,131 @@
...
+
+/--
+Sum of two effect families: on the sum of the index types, dispatches to the
+corresponding component family.
+-/
+def SumE {ι₁ ι₂ : Type u} (ε₁ : ι₁ → Type u) (ε₂ : ι₂ → Type u) : (ι₁ ⊕ ι₂) → Type u
+  | .inl i => ε₁ i
+  | .inr i => ε₂ i
+
+@[inherit_doc] infixr:30 " ⊕ₑ " => CTree.SumE
```
Comment (ineol) [inline lean-ctrees/CTree/Effect.lean]:
```suggestion
@[inherit_doc] infixr:30 " ⊕ₑ " => SumE
```

File: lean-ctrees/CTree/Effect.lean [hunk 5]
```diff
@@ -0,0 +1,131 @@
...
+
+class Subeffect {ι₁ ι₂} (ε₁ : ι₁ → Type u) (ε₂ : ι₂ → Type v) where
+  map : (i₁ : ι₁) → ((i₂ : ι₂) × (ε₂ i₂ → ε₁ i₁))
+  map_surj : ∀ i₁, Function.Surjective (map i₁).snd := by
+    grind [Function.Surjective]
+
+infix:20 " -< " => Subeffect
+attribute [grind! .] Subeffect.map_surj
+
+/-! ## Subeffect Definitions -/
```
Comment (ineol) [inline lean-ctrees/CTree/Effect.lean:46]: I'd lift that before the definition of subeffect

File: lean-ctrees/CTree/Effect.lean [hunk 6]
```diff
@@ -0,0 +1,131 @@
...
+  map t := let ⟨i, f⟩ := (sub.map t); ⟨.inl i, f⟩
+
+/-- The `ε' -< (ε₁ ⊕ₑ ε₂)` instance derived from `ε' -< ε₁` maps to `Sum.inl`. -/
+@[simp] theorem map_eq_inl [ε' -< ε₁] (e : ι') :
+    map (ε₁ := ε') (ε₂ := ε₁ ⊕ₑ ε₂) e = ⟨.inl (map e).fst, (map e).snd⟩ := rfl
+@[simp] theorem mapEff_eq_inl [ε' -< ε₁] (e : ι') :
+    mapEff ε' (ε₁ ⊕ₑ ε₂) e = .inl (mapEff ε' ε₁ e) := rfl
+
+/-- `ε₂` is a sub-effect of `ε₁ ⊕ₑ ε₂`. -/
+instance (priority:=low) instSubSumR {ι₁ ι₂ ι'}
```
Comment (ineol) [inline lean-ctrees/CTree/Effect.lean]:
```suggestion
instance (priority := low) instSubSumR {ι₁ ι₂ ι'}
```

File: lean-ctrees/CTree/Effect.lean [hunk 7]
```diff
@@ -0,0 +1,131 @@
...
+    (map (ε₁ := ε₁ ⊕ₑ ε₂) (ε₂:=ε') <| .inl e) = map e := rfl
+@[simp] theorem mapEff_inl [ε₁ -< ε'] [ε₂ -< ε'] {e : ι₁} :
+    (mapEff (ε₁ ⊕ₑ ε₂) ε' <| .inl e) = mapEff ε₁ ε' e := rfl
+@[simp] theorem map_inr [ε₁ -< ε'] [ε₂ -< ε'] {e : ι₂} :
+    (map (ε₁ := ε₁ ⊕ₑ ε₂) (ε₂:=ε') <| .inr e) = map e := rfl
+@[simp] theorem mapEff_inr [ε₁ -< ε'] [ε₂ -< ε'] {e : ι₂} :
+    (mapEff (ε₁ ⊕ₑ ε₂) ε' <| .inr e) = mapEff ε₂ ε' e := rfl
+
+/-- `ε₁` is a sub-effect of `ε₁ ⊕ₑ ε₂`. -/
+instance (priority:=mid) instSubSumL [sub : ε₁ -< ε₂] : ε₁ -< (ε₂ ⊕ₑ ε') where
```
Comment (ineol) [inline lean-ctrees/CTree/Effect.lean]:
```suggestion
instance (priority := mid) instSubSumL [sub : ε₁ -< ε₂] : ε₁ -< (ε₂ ⊕ₑ ε') where
```

File: lean-ctrees/CTree/Defs.lean [hunk 8]
```diff
@@ -0,0 +1,378 @@
...
+    | .obj (.ret r) _ => .ret r
+    | .obj (.tau i) k => .tau i k
+    | .obj (.vis i) k => .vis i k
+  unpack_pack := by rintro _ ⟨⟩ <;> simp
+  pack_unpack := by rintro _ (⟨⟨⟩, _⟩ | ⟨⟨⟩⟩) <;> simp <;> funext x <;> cases x
+
+/--
+The high-level CTree datatype
+-/
+abbrev CTree {ι : Type u} (ε : ι → Type u) {κ : Type u} (σ : κ → Type u) (α : Type u) : Type u := CoInd (CTreeF ε σ α)
```
Comment (ineol) [inline lean-ctrees/CTree/Defs.lean]: Are you sure it should be an abbrev? can't we hide it?

File: lean-ctrees/CTree/Definition.lean [hunk 9]
```diff
@@ -0,0 +1,378 @@
...
+Folding the head of a CTree
+-/
+def CTree.fold (t : CTreeF E C R (CTree E C R)) : CTree E C R := CoInd.fold _ t
+
+/--
+Unfolding the head of a CTree
+-/
+def CTree.unfold (t : CTree E C R) : CTreeF E C R (CTree E C R) := CoInd.unfold _ t
+
+-- High-level CTree constructors
```
Comment (ineol) [inline lean-ctrees/CTree/Definition.lean]: `/-! -/` ?

File: lean-ctrees/CTree/Defs.lean [hunk 10]
```diff
@@ -0,0 +1,378 @@
...
+
+/--
+A custom n-ary choice that generates a τ transition
+-/
+def CTree.tau (i : CIn) (k : C i → CTree E C R) : CTree E C R := CTree.fold (.tau (.inr i) k)
+
+/--
+A unary choice that generates a τ transition
+-/
+def CTree.tau1 (t : CTree E C R) : CTree E C R := CTree.tauG (.inl .e1) λ _ => t
```
Comment (ineol) [inline lean-ctrees/CTree/Defs.lean]: Isn't it a bit surprising that `tau` is not a `\tau` transition?

File: lean-ctrees/CTree/Definition.lean [hunk 11]
```diff
@@ -0,0 +1,378 @@
...
+-/
+def CTree.trigger (i : EIn) : CTree E C (E i) := CTree.vis i (fun x => CTree.ret x)
+
+/--
+A CTree making an n-ary choice and immediately returning
+-/
+def CTree.choose (i : CIn) : CTree E C (C i) := CTree.tau i (fun x => CTree.ret x)
+
+
+-- Basic simp lemmas, notably for proofs of monotonicity required to use partial_fixpoint
```
Comment (ineol) [inline lean-ctrees/CTree/Definition.lean]: `/-! ... -/`?

File: lean-ctrees/CTree/Defs.lean [hunk 12]
```diff
@@ -0,0 +1,378 @@
...
+
+
+-- Basic simp lemmas, notably for proofs of monotonicity required to use partial_fixpoint
+
+@[simp]
+theorem CTree.unfold_fold (t : CTree E C R) :
+  CTree.fold (CTree.unfold t) = t := by simp [CTree.fold, CTree.unfold]
+
+@[simp]
+theorem ret_approx_1 (r : R) n :
```
Comment (ineol) [inline lean-ctrees/CTree/Defs.lean]: I don't think the name is very idiomatic in Lean? @bollu might have a better idea than me

File: lean-ctrees/CTree/Definition.lean [hunk 13]
```diff
@@ -0,0 +1,378 @@
...
+inductive CTreeF {EIn : Type u} (E : EIn → Type u) {CIn : Type u} (C : CIn → Type u)
+    (R : Type v) (CTree : Type w) : Type (max u v w) where
+  | ret (r : R)
+  | tau (i : E1In ⊕ CIn) (k : (E1 ⊕ₑ C) i → CTree)
+  | vis (i : EIn) (k : E i → CTree)
+
+open Subeffect (mapEff mapCont)
+
+/--
+The bottom element is defined as the spinning CTree
```
Comment (ineol) [inline lean-ctrees/CTree/Definition.lean]: Is it that spinny? It does not inhabit the coinductive type.

File: lean-ctrees/CTree/Definition.lean [hunk 14]
```diff
@@ -0,0 +1,378 @@
...
+    ext
+    constructor
+    · intro h
+      rw [CoInd.le_unfold] at h
+      rcases h with (rfl|⟨i, _, _, _, _, h1, h2⟩); simp
+      rw [<-Coinductive.unfold_fold _ t1, <-Coinductive.unfold_fold _ t2]
+      rw [<-PF.unpack_pack (CoInd.unfold _ t1), <-PF.unpack_pack (CoInd.unfold _ t2)]
+      simp only [h1, h2]
+      right
+      cases i <;> simp [PF.pack, ret, tauG, vis, fold]
```
Comment (ineol) [inline lean-ctrees/CTree/Definition.lean]: non terminal simp instead of `simp only`

Comment (ineol) [inline lean-ctrees/CTree/Definition.lean]:
```suggestion
      cases i <;> simp [PF.pack, ret, tauG, vis, fold] <;> grind
```
also works

File: lean-ctrees/CTree/Definition.lean [hunk 15]
```diff
@@ -0,0 +1,378 @@
...
+        right
+        exists ?_, ?_; rotate_left 1
+        constructor; rfl
+        apply Exists.intro
+        constructor; rfl
+        simp_all
+    · rintro (rfl| ⟨_, rfl, rfl⟩ | ⟨_, _, _, rfl, rfl, _⟩|⟨_, _, _, rfl, rfl, _⟩)
+      · simp [CoInd.le_unfold]
+      · apply PartialOrder.rel_refl
+      · simp [CoInd.le_unfold]
```
Comment (ineol) [inline lean-ctrees/CTree/Definition.lean]: also here

File: lean-ctrees/CTree/Definition.lean [hunk 16]
```diff
@@ -0,0 +1,378 @@
...
+        right
+        simp [PF.unpack, CTree.tauG, CTree.fold]
+        constructor <;> try rfl
+        grind
+      · simp [CoInd.le_unfold]
+        right
+        simp [PF.unpack, CTree.vis, CTree.fold]
```
Comment (ineol) [inline lean-ctrees/CTree/Definition.lean]: and here

**Review by ineol — COMMENTED** [review]
A bunch of non terminal `simp`s in the proofs of monotonicity at the bottom of `Definition`.

Also it may be more idiomatic to call the file `Defs.lean` than `Definition.lean`?

File: lean-ctrees/CTree/Definition.lean [hunk 17]
```diff
@@ -0,0 +1,378 @@
...
+    intro hf hg t1 t2 hle
+    apply CoInd.le_leN
+    intro n
+    dsimp only
+    have hlef : (f t1) ⊑ (f t2) := by apply hf; assumption
+    generalize f t1 = t1, f t2 = t2 at hlef
+    induction n generalizing t1 t2; simp [CoIndN.le]
+    unfold CTree.bind
+    rw [CTree.le_unfold] at hlef
+    rcases hlef with (rfl|⟨_, rfl, rfl⟩|⟨_, _, _, rfl, rfl, _⟩|⟨_, _, _, rfl, rfl, _⟩)
```
Comment (ineol) [inline lean-ctrees/CTree/Definition.lean]:
```suggestion
    rcases hlef with (rfl|⟨x, rfl, rfl⟩|⟨_, _, _, rfl, rfl, _⟩|⟨_, _, _, rfl, rfl, _⟩)
```
to get rid of the `rename_i` in the second case.

File: lean-ctrees/CTree/Defs.lean (hunk 10 above)
Comment (nchappe) [reply lean-ctrees/CTree/Defs.lean]: But it is, the difference is that tau1 is unary, tau is n-ary, and tauG encapsulates both

File: lean-ctrees/CTree/Definition.lean (hunk 13 above)
Comment (nchappe) [reply lean-ctrees/CTree/Definition.lean]: The coinductive library defines the bottom element as the cofixpoint of the provided inhabitant of the functor applied to unit.
I added a comment.

File: lean-ctrees/CTree/Defs.lean (hunk 3 above)
Comment (nchappe) [reply lean-ctrees/CTree/Defs.lean:54]: I don't know either, I added a comment about this

**Comment by nchappe** [comment]
Addressed most of the comments, thanks!
I also renamed `E1` to `C1` as it makes more sense for a unary choice.

File: lean-ctrees/CTree/Defs.lean [hunk 18]
```diff
@@ -0,0 +1,374 @@
+-- SPDX-License-Identifier: Apache-2.0 WITH LLVM-exception
+
+-- definitions and monotonicity proofs partly adapted from the ones in Coinductive and EffectSSA
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean]:
```suggestion
/-!
Definitions and monotonicity proofs partly adapted from the ones in Coinductive and EffectSSA
-/
```
?

File: lean-ctrees/CTree/Defs.lean [hunk 19]
```diff
@@ -0,0 +1,374 @@
...
+public section
+
+namespace CTree
+open Coinductive Lean.Order
+open Subeffect (mapEff mapCont)
+
+
+/--
+The unary choice has only one case
+-/
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean:31]:
```suggestion
/--
Type of the unary choice. It is used to encode Itree-style tau nodes that have only a single children.
-/
```
Or something similar. Just something that explains why we need that type.

Also, just for my knowledge, why is it suffixed with `In`? Is it for `Inductive`?

File: lean-ctrees/CTree/Defs.lean [hunk 20]
```diff
@@ -0,0 +1,374 @@
...
+@[expose]
+def C1 (c : C1In.{u}) : Type u :=
+  match c with
+  | .c1 => PUnit
+
+
+/-! Low-level CTree definitions -/
+
+-- FIXME is universe w needed?
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean]: I would mark this as a `TODO` rather than a `FIXME`, since this works either way

File: lean-ctrees/CTree/Defs.lean (hunk 8 above)
Comment (math-fehr) [reply lean-ctrees/CTree/Defs.lean]: It would be really nice if we could hide it and just use lemmas to manipulate it

File: lean-ctrees/CTree/Defs.lean [hunk 21]
```diff
@@ -0,0 +1,374 @@
...
+    | .vis i k => .obj (.vis i) k
+  pack
+    | .obj (.ret r) _ => .ret r
+    | .obj (.tau i) k => .tau i k
+    | .obj (.vis i) k => .vis i k
+  unpack_pack := by rintro _ ⟨⟩ <;> simp
+  pack_unpack := by rintro _ (⟨⟨⟩, _⟩ | ⟨⟨⟩⟩) <;> simp <;> funext x <;> cases x
+
+/--
+The high-level CTree datatype
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean:94]: It would help a bit to describe what epsilon, kappa, sigma, and alpha are here. From the type, I would have no idea what they are

File: lean-ctrees/CTree/Defs.lean [hunk 22]
```diff
@@ -0,0 +1,374 @@
...
+-/
+abbrev CTree {ι : Type u} (ε : ι → Type u) {κ : Type u} (σ : κ → Type u) (α : Type u) : Type u := CoInd (CTreeF ε σ α)
+
+/--
+A CTree limited to depth n
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean:99]: Same here, it would be nice to have a description of the arguments.

File: lean-ctrees/CTree/Defs.lean [hunk 23]
```diff
@@ -0,0 +1,374 @@
...
+-/
+abbrev CTreeN {ι : Type u} (ε : ι → Type u) {κ : Type u} (σ : κ → Type u) (α : Type u) (n : Nat) : Type u := CoIndN (CTreeF ε σ α) n
+
+
+variable {EIn FIn CIn : Type u} {E : EIn → Type u} {F : FIn → Type u} {C : CIn → Type u} {R R' : Type u} (RR : R → R' → Prop)
+
+/--
+Folding the head of a CTree
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean]:
```suggestion
Folds the head of a CTree
```

File: lean-ctrees/CTree/Defs.lean [hunk 24]
```diff
@@ -0,0 +1,374 @@
...
+-/
+def CTree.fold (t : CTreeF E C R (CTree E C R)) : CTree E C R := CoInd.fold _ t
+
+/--
+Unfolding the head of a CTree
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean]:
```suggestion
Unfolds the head of a CTree
```

File: lean-ctrees/CTree/Defs.lean [hunk 25]
```diff
@@ -0,0 +1,374 @@
...
+-/
+def CTree.unfold (t : CTree E C R) : CTreeF E C R (CTree E C R) := CoInd.unfold _ t
+
+/-! High-level CTree constructors -/
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean]:
```suggestion
/-! ## High-level CTree constructors -/
```

File: lean-ctrees/CTree/Defs.lean (hunk 3 above)
Comment (alexkeizer) [reply lean-ctrees/CTree/Defs.lean:54]: What is the universe of the CTree definition if you do this? I think that's the only place where it really matters

File: lean-ctrees/CTree/Defs.lean [hunk 26]
```diff
@@ -0,0 +1,374 @@
...
+/--
+A custom n-ary choice that generates τ transitions
+-/
+def CTree.tau (i : CIn) (k : C i → CTree E C R) : CTree E C R := CTree.fold (.tau (.inr i) k)
+
+/--
+A unary choice that generates a τ transition
+-/
+def CTree.tau1 (t : CTree E C R) : CTree E C R := CTree.tauG (.inl .c1) λ _ => t
+
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean:138]: I feel this naming is quite confusing, and probably hard for people not used to CTrees to understand ?
Would it make sense to rename `tau1` to `silentStep`, `tau` to `choice`, and `tauG` to `choiceG`? I feel it makes more sense to the user than these namings that might onyl be understood by people that understand CTrees already.

File: lean-ctrees/CTree/Defs.lean [hunk 27]
```diff
@@ -0,0 +1,374 @@
...
+/-! Low-level CTree definitions -/
+
+-- FIXME is universe w needed?
+/--
+The basic coinductive functor for CTree, with constructor resp. for leaves, for n-ary choices, and for n-ary events.
+-/
+inductive CTreeF {EIn : Type u} (E : EIn → Type u) {CIn : Type u} (C : CIn → Type u)
+    (R : Type v) (CTree : Type w) : Type (max u v w) where
+  | ret (r : R)
+  | tau (i : C1In ⊕ CIn) (k : (C1 ⊕ₑ C) i → CTree)
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean:56]: Should `tau` be renamed to something like `nondet` or something else? People might think that `tau` is the silent step here, while it is also a silent choice here?

File: lean-ctrees/CTree/Defs.lean [hunk 28]
```diff
@@ -0,0 +1,374 @@
...
+-/
+abbrev CTree {ι : Type u} (ε : ι → Type u) {κ : Type u} (σ : κ → Type u) (α : Type u) : Type u := CoInd (CTreeF ε σ α)
+
+/--
+A CTree limited to depth n
+-/
+abbrev CTreeN {ι : Type u} (ε : ι → Type u) {κ : Type u} (σ : κ → Type u) (α : Type u) (n : Nat) : Type u := CoIndN (CTreeF ε σ α) n
+
+
+variable {EIn FIn CIn : Type u} {E : EIn → Type u} {F : FIn → Type u} {C : CIn → Type u} {R R' : Type u} (RR : R → R' → Prop)
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean:104]: Would it maybe make more sense to use `E₁In` and so on? That would make it more obvious that they are all effects?

File: lean-ctrees/CTree/Defs.lean [hunk 29]
```diff
@@ -0,0 +1,374 @@
...
+
+/-! High-level CTree constructors -/
+
+/--
+A leaf returning a value
+-/
+def CTree.ret (r : R) : CTree E C R := CTree.fold (.ret r)
+
+/--
+An n-ary choice that generates τ transitions (general case)
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean]: Can you explain why this is a general case in the documentation?

File: lean-ctrees/CTree/Defs.lean [hunk 30]
```diff
@@ -0,0 +1,374 @@
...
+-/
+def CTree.trigger (i : EIn) : CTree E C (E i) := CTree.vis i (fun x => CTree.ret x)
+
+/--
+A CTree making an n-ary choice and immediately returning
+-/
+def CTree.choose (i : CIn) : CTree E C (C i) := CTree.tau i (fun x => CTree.ret x)
+
+
+/-! Basic simp lemmas, notably for proofs of monotonicity required to use partial_fixpoint -/
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean]:
```suggestion
/-!
## Basic simp lemmas

Lemmas used for proofs of monotonicity required to use partial_fixpoint
-/
```

File: lean-ctrees/CTree/Defs.lean [hunk 31]
```diff
@@ -0,0 +1,374 @@
...
+
+@[simp]
+theorem CTree.unfold_fold (t : CTree E C R) :
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean]: This should be renamed `CTree.fold_unfold`. Lean naming is usually from outer to inner

File: lean-ctrees/CTree/Defs.lean (hunk 12 above)
Comment (math-fehr) [reply lean-ctrees/CTree/Defs.lean]: I think this should be named `CTree.approx_ret_succ` ?

File: lean-ctrees/CTree/Defs.lean [hunk 32]
```diff
@@ -0,0 +1,374 @@
...
+  CTree.fold (CTree.unfold t) = t := by simp [CTree.fold, CTree.unfold]
+
+@[simp]
+theorem ret_approx_1 (r : R) n :
+  (CTree.ret (E := E) (C := C) r).approx (n + 1) = CTreeF.ret r := by
+    simp [CTree.ret, CTree.fold, CoInd.fold, PF.map, PF.pack, PF.unpack]
+
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean:169]: In general, for the following lemmas, you want to have names in preorder traversal. So the theorem `A (B (C D)) (E F)` will be named `A_B_C_E`. Also, `+ 1` is `succ` usually.

That's a Lean convention, I don't really remember the reason why.

File: lean-ctrees/CTree/Defs.lean [hunk 33]
```diff
@@ -0,0 +1,374 @@
...
+@[simp]
+theorem fold_ret_approx_1 (r : R) n :
+  (CTree.fold (CTreeF.ret (E := E) (C := C) r)).approx (n + 1) = CTreeF.ret r :=
+    ret_approx_1 r n
+
+@[simp]
+theorem tau_approx_1 i (k : (C1 ⊕ₑ C) i → CTree E C R) n :
+  (CTree.tauG i k).approx (n + 1) = CTreeF.tau i (fun c => (k c).approx n) := by
+    simp [CTree.tauG, CTree.fold, CoInd.fold, PF.map, PF.pack, PF.unpack]
```
Comment (math-fehr) [inline lean-ctrees/CTree/Defs.lean]: You have quite a few non-terminating `simp`. The issue is that we don't want to have proofs breaking because something new was added to `simp`.
So this (and the following) should be `simp only ...` instead of `simp ...`.

File: lean-ctrees/CTree/Effect.lean [hunk 34]
```diff
@@ -0,0 +1,131 @@
...
+
+infix:20 " -< " => Subeffect
+attribute [grind! .] Subeffect.map_surj
+
+/-! ## Subeffect Definitions -/
+namespace Subeffect
+
+/-- `mapEff` is an abbreviation of the first component of `map`. -/
+@[simp, grind]
+abbrev mapEff {ι₁ ι₂} (ε₁ : ι₁ → Type u) (ε₂ : ι₂ → Type u)
```
Comment (math-fehr) [inline lean-ctrees/CTree/Effect.lean]:
```suggestion
abbrev mapEff {ι₁ ι₂} (ε₁ : ι₁ → Type u) (ε₂ : ι₂ → Type v)
```
Does this work?

File: lean-ctrees/CTree/Effect.lean [hunk 35]
```diff
@@ -0,0 +1,131 @@
...
+    [s : ε₁ -< ε₂] (i₁ : ι₁) : ι₂ :=
+  (s.map i₁).1
+
+/-- `mapCont` is an abbreviation of the second component of `map`. -/
+@[simp, grind]
+abbrev mapCont {ι₁ ι₂} (ε₁ : ι₁ → Type u) (ε₂ : ι₂ → Type u) [s : ε₁ -< ε₂]
```
Comment (math-fehr) [inline lean-ctrees/CTree/Effect.lean]:
```suggestion
abbrev mapCont {ι₁ ι₂} (ε₁ : ι₁ → Type u) (ε₂ : ι₂ → Type v) [s : ε₁ -< ε₂]
```
Same here?

File: lean-ctrees/CTree/Interp.lean [hunk 36]
```diff
@@ -0,0 +1,40 @@
...
+public import CTree.Iter
+
+public section
+
+namespace CTree
+open Coinductive Lean.Order
+
+variable {EIn FIn CIn C'In DIn X Y : Type u} {E : EIn → Type u} {F : FIn → Type u} {C : CIn → Type u} {C' : C'In → Type u} {D : DIn → Type u} {R R' : Type u} (RR : R → R' → Prop)
+
+-- FIXME this should be generalized to a larger result choice family D
```
Comment (math-fehr) [inline lean-ctrees/CTree/Interp.lean]:
```suggestion
-- TODO this should be generalized to a larger result choice family D
```
Since this is not really a bug right?

File: lean-ctrees/CTree/Interp.lean [hunk 37]
```diff
@@ -0,0 +1,40 @@
...
+
```
Comment (math-fehr) [inline lean-ctrees/CTree/Interp.lean:18]: Can you add a TODO here to not introduce additional unary `tau` when interpreting a `.tau`?

File: lean-ctrees/CTree/Interp.lean [hunk 38]
```diff
@@ -0,0 +1,40 @@
...
+/--
+Substitute events with subtrees according to the provided handler `h`
+-/
+def interp (h : (i: EIn) → CTree F C (E i)) : CTree E C X → CTree F C X :=
```
Comment (math-fehr) [inline lean-ctrees/CTree/Interp.lean]:
```suggestion
def interp (h : (i : EIn) → CTree F C (E i)) : CTree E C X → CTree F C X :=
```

File: lean-ctrees/CTree/Interp.lean [hunk 39]
```diff
@@ -0,0 +1,40 @@
...
+    | .ret r => return (.inr r)
+    | .tau i k => .tauG i (fun x => return (.inl (k x)))
+    | .vis i k => do
+        let o ← h i
+        return (.inl (k o))
+
+/--
+Substitute choice nodes with subtrees according to the provided handler `h`
+-/
+def refine (h : (i: CIn) → CTree E D (C i)) : CTree E C X → CTree E D X :=
```
Comment (math-fehr) [inline lean-ctrees/CTree/Interp.lean]:
```suggestion
def refine (h : (i : CIn) → CTree E D (C i)) : CTree E C X → CTree E D X :=
```

File: lean-ctrees/CTree/Iter.lean [hunk 40]
```diff
@@ -0,0 +1,23 @@
...
+namespace CTree
+
+/--
+The `iter` combinator loops over `body` while it returns a value in `I`,
+and finally returns when it returns a value in `X`.
+-/
+def iter {I X} (body : I -> CTree E C (I ⊕ X)) (i : I) : CTree E C X := do
+  let r ← body i
+  match r with
+  | .inl i => .tau1 (iter body i)
```
Comment (math-fehr) [inline lean-ctrees/CTree/Iter.lean:18]: Is there a reason why we insert a `tau1` here? It doesn't seem like it is needed for the function to be defined?

**Review by math-fehr — COMMENTED** [review]
Nice! I added a few comments, but most of them are style/documentation ones!
I think it would be nice in `Defs` to have a short description of what `CTrees` are in general as well!

File: lean-ctrees/CTree/Defs.lean (hunk 8 above)
Comment (alexkeizer) [reply lean-ctrees/CTree/Defs.lean]: You absolutely should be able to hide it, I guess it'd just require some boilerplate. One thing: even though you can hide the definition of CTree, it will still be kinda exposed by the unfold/destructure function (I forget what sammlers library calls it, specifically) which returns a CTreeF, and which needs to return a CTreeF for pattern matching to work.

If you wanted to hide CTreeF completely, you'd likely have to forego `match` notation (or build a custom `match` macro, but that's entirely out of scope)

File: lean-ctrees/CTree/Defs.lean (hunk 12 above)
Comment (alexkeizer) [reply lean-ctrees/CTree/Defs.lean]: Sammler's library has a bunch of non-idiomatic names; I forget how much of those were in `coinductive`, but I'm sure I saw at least a few in the itree library also!

File: lean-ctrees/CTree/Iter.lean (hunk 40 above)
Comment (alexkeizer) [reply lean-ctrees/CTree/Iter.lean:18]: It's not strictly speaking required in Lean, with partial fixpoint, but if you don't have it certain coinductive proofs over `iter` become much more painful (if not impossible).

**Comment by MackieLoeffel** [comment]
Just to confirm, I am fine with the license change for this piece of code, as discussed in private communication.

File: lean-ctrees/CTree/Defs.lean (hunk 19 above)
Comment (nchappe) [reply lean-ctrees/CTree/Defs.lean:31]: It's for "Input" as it's the input for the effect. Effects are encoded differently in Rocq so I came up with this naming convention for this development (feel free to suggest another convention).

File: lean-ctrees/CTree/Defs.lean (hunk 21 above)
Comment (nchappe) [reply lean-ctrees/CTree/Defs.lean:94]: ITreeExtra heavily uses greek letters, as per Lean conventions.
I chose not to follow that convention in most of the development, because I would have had 6 or so greek letters sometimes, and it felt too much (plus I don't like having too much unicode), but I had left out a few occurences, this is now fixed.

File: lean-ctrees/CTree/Defs.lean (hunk 27 above)
Comment (nchappe) [reply lean-ctrees/CTree/Defs.lean:56]: Tau is a silent step. If it's unary (tau1) it's exactly like the "tau" in itrees, and if it's a n-ary silent step it furthermore branches and can thus also be considered a choice.

Naming it nondet may give the impression that it's "just" a choice when it is also a step (unlike the choices in rocq-ctrees). I am also a bit reluctant to name it "choice" for the same reason. Naming should ideally make it clear that it's not exactly the same as in the rocq library.

In the rocq version we would call this operation a "stepping branch" (as opposed to regular non-stepping branches).

Tau is not a perfect name either so I'll think a bit more about it.

File: lean-ctrees/CTree/Effect.lean (hunk 35 above)
Comment (nchappe) [reply lean-ctrees/CTree/Effect.lean]: Yes to both. Do you want me to change it?

File: lean-ctrees/CTree/Defs.lean (hunk 28 above)
Comment (nchappe) [reply lean-ctrees/CTree/Defs.lean:104]: Sometimes I use E/F and sometimes E/E'.
With E1 then there would be a naming conflict between C1 (following the same convention as E1In/E2In/E1/E2/etc.) and C1 (the choice with only one option).
I tend to think it's clear enough as is with the context but I need to think more about it.

**Comment by nchappe** [comment]
I addressed most of @math-fehr's comments, thanks!

File: lean-ctrees/CTree/Defs.lean [hunk 41]
```diff
@@ -0,0 +1,382 @@
...
+
+variable {EIn FIn CIn : Type u} {E : EIn → Type u} {F : FIn → Type u} {C : CIn → Type u} {R R' : Type u} (RR : R → R' → Prop)
+
+/--
+Folds the head of a CTree
+-/
+def CTree.fold (t : CTreeF E C R (CTree E C R)) : CTree E C R := CoInd.fold _ t
+
+/--
+Unfols the head of a CTree
```
Comment (tobiasgrosser) [inline lean-ctrees/CTree/Defs.lean]:
```suggestion
Unfolds the head of a CTree
```

File: lean-ctrees/CTree/Defs.lean [hunk 42]
```diff
@@ -0,0 +1,382 @@
+-- SPDX-License-Identifier: Apache-2.0 WITH LLVM-exception
+
+module
+
+public import Coinductive
+public import CTree.Effect
+
+public section
+
+/-! Definitions and monotonicity proofs are partly adapted from the ones in Coinductive and EffectSSA. -/
```
Comment (tobiasgrosser) [inline lean-ctrees/CTree/Defs.lean:21]: I would start with 2-6 sentences of what C-trees are. Maybe a citation of the original C-trees paper and how this implementation differs.

**Comment by alexkeizer** [comment]
> Just to confirm, I am fine with the license change for this piece of code, as discussed in private communication.

The same holds for my contributions included here: I'm ok with them being relicensed

**Comment by nchappe** [comment]
Addressed Tobias' comments! Does anybody have further comments?

**Comment by nchappe** [comment]
It seems like our CI build is failing in coinductive, presumably because of an incompatibility with our lean version, even after updating the library to the latest commit.

**Comment by tobiasgrosser** [comment]
I proposed a patch to update this library to 4.33: https://github.com/ISTA-PLV/coinductive/pull/8. Can you review it?

**Comment by MackieLoeffel** [comment]
Thanks for the PR for updating the coinductive library! I've looked into this briefly before, but got stuck and then had to work on other things. The PR is merged and coinductive is now compatible with 4.33.0.

**Comment by nchappe** [comment]
Thanks for the updates to the coinductive library.
There were some more subtleties with the Lean version bump that @ineol helped me debug, and CI passes now

File: lean-ctrees/CTree/Defs.lean (hunk 19 above)
Comment (tobiasgrosser) [reply lean-ctrees/CTree/Defs.lean:31]: Do we want to apply this comment, @nchappe.

Comment (nchappe) [reply lean-ctrees/CTree/Defs.lean:31]: (A variant of) it was already applied

**Comment by ineol** [comment]
LGTM!
